US09169254B2
Triethylamine (625 μL, 13.1 mmol) and acrylic acid ethyl ester (1.82 mL, 5.74 mmol) were added to a solution of (4-bromo-3-methyl-phenyl)-hydrazine (1.05 g, 5.22 mmol) in EtOH (26.1 mL) at room temperature in a nitrogen atmosphere, and the mixture was stirred at 80° C. for 18 hours. The reaction solution was cooled, and 50% NaH (501 mg, 10.4 mmol) was then added to the reaction solution at 0° C. The mixture was stirred at 0° C. for 30 minutes, and 50% NaH (251 mg, 5.20 mmol) was then further added, followed by further stirring for 30 minutes. The reaction mixture was quenched with a saturated aqueous ammonium chloride solution and extracted with ethyl acetate three times. The organic layers were combined and washed with a mixed solution of water:saturated brine (1:1). After separation, the organic layer was dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 2-(4-bromo-3-methyl-phenyl)-pyrazolidin-3-one as a brown form (684 mg, 60%).

reactant | Triethylamine | 13.1 mmol, 625 μL | C(C)N(CC)CC | C6H15N
reactant | acrylic acid ethyl ester | 5.74 mmol, 1.82 mL | C(C)OC(C=C)=O | C5H8O2
reactant | (4-bromo-3-methyl-phenyl)-hydrazine | 5.22 mmol, 1.05 g | BrC1=C(C=C(C=C1)NN)C | C7H9BrN2
reactant | NaH | 10.4 mmol, 501 mg | [H-].[Na+]
reactant | NaH | 5.20 mmol, 251 mg | [H-].[Na+]
solvent | EtOH | 26.1 mL | CCO | C2H6O
product | 2-(4-bromo-3-methyl-phenyl)-pyrazolidin-3-one | BrC1=C(C=C(C=C1)N1NCCC1=O)C | C10H11BrN2O
